US05585468
A 500 ml round bottom flask equipped with a heating mantle, reflux condenser, and a Drierite® filled drying tube was charged with 16.22 g (0.10 mol) of 5-benzimidazolecarboxylic acid (Aldrich), 400 ml of anhydrous methanol and then (Caution!) 20 ml of concentrated sulfuric acid (Fisher). The reaction mixture was heated to reflux for 18 h and then cooled to ambient temperature. Approximately 75% of the solvents were removed under vacuum and then the remaining liquid residue was slowly poured into 500 ml of saturated sodium bicarbonate solution. The resultant two phase system was then extracted with three 250 ml portions of ethyl acetate. The organic layers were combined and washed with three 250 ml portions of 5% sodium bicarbonate solution followed by one 250 ml portion of brine. The ethyl acetate layer was dried over MgSO4, filtered and the solvents were then removed under reduced pressure to give 15.68 g (0.089 mol, 89% yield) of 5-benzimidazolecarboxylic acid, methyl ester, 10, as a tan solid. 1H NMR (CDCl3, TMS): δ7.3-7.9 (m, 3H), 3.70 (s, 3H).

reactant | Drierite | [O-]S(=O)(=O)[O-].[Ca+2]
reactant | 5-benzimidazolecarboxylic acid | 0.10 mol, 16.22 g | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 400 ml | CO | CH4O
product | 5-benzimidazolecarboxylic acid, methyl ester | 0.089 mol, 15.68 g, 89% yield | N1=CNC2=C1C=CC(=C2)C(=O)OC | C9H8N2O2
